US04767760
To a stirred mixture of 3 parts of 2,6-dichloro-α-(4-chlorophenyl)-4-(3,4,5,6-tetrahydro-4-methyl-3,5-dioxo-1,2,4-triazin-2(1H)-yl)benzeneacetonitrile and 20 parts of pyridine were added dropwise 1.7 parts of benzoyl chloride during a period of 5 minutes at room temperature and under nitrogen atmosphere. Upon complete addition, stirring was continued overnight at room temperature. The reaction mixture was evaporated in vacuo and the residue was stirred in water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified twice by column chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated in vacuo. The residue was crystallized from 8 parts of acetonitrile. The product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 0.8 parts (20.2%) of 1-benzoyl-2-[3,5-dichloro-4-[(4-chlorophenyl)cyanomethyl]phenyl]-1,6-dihydro-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione; mp. 148.4° C. (compound 79).

reactant | 2,6-dichloro-α-(4-chlorophenyl)-4-(3,4,5,6-tetrahydro-4-methyl-3,5-dioxo-1,2,4-triazin-2(1H)-yl)benzeneacetonitrile | ClC1=C(C(=CC(=C1)N1NCC(N(C1=O)C)=O)Cl)C(C#N)C1=CC=C(C=C1)Cl | C18H13Cl3N4O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-benzoyl-2-[3,5-dichloro-4-[(4-chlorophenyl)cyanomethyl]phenyl]-1,6-dihydro-4-methyl-1,2,4-triazine-3,5(2H,4H)-dione | 20.2% | C(C1=CC=CC=C1)(=O)N1N(C(N(C(C1)=O)C)=O)C1=CC(=C(C(=C1)Cl)C(C#N)C1=CC=C(C=C1)Cl)Cl | C25H17Cl3N4O3
